US07579469B2
Synthesis of 1-[4-(2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-2-hydroxymethyl-3,5-dimethyl-1H-pyridin-4-one
To a suspension of 7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-2,3-dihydrobenzofuran (30.0 mg) and 2-hydroxymethyl-3,5-dimethylpyridin-4-ol (32.2 mg) in anhydrous ethanol (0.25 mL) was added sodium ethoxide (21 wt. % solution in ethanol, 39.0 μL). After heating at 85° C. for 18 hours, the reaction mixture was diluted with ethyl acetate, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography with silica gel (eluted with 4% to 7% methanol-methylene chloride) to give the title compound as a white solid (10.4 mg), m.p. 160° C.-162° C.

reactant | 7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-2,3-dihydrobenzofuran | 30.0 mg | CC(CC1(OC1)C(F)(F)F)(C)C1=CC=CC=2CCOC21 | C15H17F3O2
reactant | 2-hydroxymethyl-3,5-dimethylpyridin-4-ol | 32.2 mg | OCC1=NC=C(C(=C1C)O)C | C8H11NO2
reactant | sodium ethoxide | 39.0 μL | [O-]CC.[Na+]
solvent | ethanol | 0.25 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-2-hydroxymethyl-3,5-dimethyl-1H-pyridin-4-one | 10.4 mg | O1CCC2=C1C(=CC=C2)C(CC(CN2C(=C(C(C(=C2)C)=O)C)CO)(C(F)(F)F)O)(C)C | C23H28F3NO4
